US04010279
2-Methyl-2-{4-[2-(2-methoxy-benzamido)-ethyl]-biphenyl-4'-oxy}-propionic acid by method A
0.5 gm (1.4 millimols) of 4-[2-(2-methoxy-benzamido)-ethyl]-4'-hydroxy-biphenyl were heated at 90°-130° C for 90 minutes with 0.025 gm of 2-bromo-2-methyl-propionic acid. The reaction product was isolated by chromatography on silicagel with chloroform/methanol (9:1) as the eluant. M.P. 133° C. M + H = 433;

reactant | 4-[2-(2-methoxy-benzamido)-ethyl]-4'-hydroxy-biphenyl | 1.4 millimols, 0.5 gm | COC1=C(C(=O)NCCC2=CC=C(C=C2)C2=CC=C(C=C2)O)C=CC=C1 | C22H21NO3
reactant | 2-bromo-2-methyl-propionic acid | 0.025 gm | BrC(C(=O)O)(C)C | C4H7BrO2
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 2-Methyl-2-{4-[2-(2-methoxy-benzamido)-ethyl]-biphenyl-4'-oxy}-propionic acid | CC(C(=O)O)(C)OC1=CC=C(C=C1)C1=CC=C(C=C1)CCNC(C1=C(C=CC=C1)OC)=O | C26H27NO5
